US08791123B2
A mixture of ethyl 5-((2R,4S)-4-acetoxy-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (225 mg, 0.546 mmol) and NaOH (131 mg, 1.64 mmol) in MeOH (1.0 mL) was stirred at ambient temperature for 60 hours followed by 3 hours at 60° C. The mixture was cooled to ambient temperature and 4M HCl in dioxane (1 mL) was added. The mixture was concentrated and the residue was treated with DCM. The mixture was filtered through Celite and concentrated to afford 5-((2R,4S)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (188 mg, 10% yield) as a white solid. MS (apci) m/z=343.0 (M+H).

reactant | ethyl 5-((2R,4S)-4-acetoxy-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.546 mmol, 225 mg | C(C)(=O)O[C@H]1C[C@@H](N(C1)C1=NC=2N(C=C1)N=CC2C(=O)OCC)C2=CC(=CC=C2)F | C21H21FN4O4
reactant | NaOH | 1.64 mmol, 131 mg | [OH-].[Na+]
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 1.0 mL | CO | CH4O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-((2R,4S)-2-(3-fluorophenyl)-4-hydroxypyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 188 mg, 10% yield | FC=1C=C(C=CC1)[C@@H]1N(C[C@H](C1)O)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H15FN4O3
